US07087601B2
Utilizing the general procedure outlined for 1-[4-(1,3-benzoxazol-2-yl)-2-chlorophenyl]cyclopentanecarbonitrile, [4-(1,3-benzoxazol-2-yl)-2-chlorophenyl]acetonitrile (400 mg, 1.5 mmol) and 1,5-dibromopentane (250 μL, 1.8 mmol) reacted to afford the desired 1-[4-(1,3-benzoxazol-2-yl)-2-chlorophenyl]cyclohexanecarbonitrile as a colorless solid: 1H NMR (CDCl3, 300 MHz) δ 8.22 (d, 1H), 8.06 (d, 1H), 7.68–7.73 (m, 1H), 7.51–7.55 (m, 2H), 7.28–7.35 (m, 2H), 2.49 (d, 2H), 1.73–2.00 (m, 8H). MS (ESI) 337 (M+H)+.

reactant | 1-[4-(1,3-benzoxazol-2-yl)-2-chlorophenyl]cyclopentanecarbonitrile | O1C(=NC2=C1C=CC=C2)C2=CC(=C(C=C2)C2(CCCC2)C#N)Cl | C19H15ClN2O
reactant | [4-(1,3-benzoxazol-2-yl)-2-chlorophenyl]acetonitrile | 1.5 mmol, 400 mg | O1C(=NC2=C1C=CC=C2)C2=CC(=C(C=C2)CC#N)Cl | C15H9ClN2O
reactant | 1,5-dibromopentane | 1.8 mmol, 250 μL | BrCCCCCBr | C5H10Br2
product | 1-[4-(1,3-benzoxazol-2-yl)-2-chlorophenyl]cyclohexanecarbonitrile | O1C(=NC2=C1C=CC=C2)C2=CC(=C(C=C2)C2(CCCCC2)C#N)Cl | C20H17ClN2O
